US04031226
A mixture of 5.3 parts of N{2-[4-(2,3-dihydro-2-oxo- 1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-2-methoxy-4-nitrobenzamide in 80 parts of methanol and 90 parts of tetrahydrofuran is hydrogenated at normal pressure and at room temperature with 5 parts of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filered off and the filtrate is evaporated. The residue is crystallized from ethanol 96%, yielding 3.65 parts of 4-amino-N{2-[4-(2,3-dihydro-2-oxo- 1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-2-methoxybenzamide hydrate; mp. 220.6° C.

reactant | N{2-[4-(2,3-dihydro-2-oxo- 1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-2-methoxy-4-nitrobenzamide | O=C1NC2=C(N1C1CCN(CC1)CCNC(C1=C(C=C(C=C1)[N+](=O)[O-])OC)=O)C=CC=C2 | C22H25N5O5
reactant | methanol | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-amino-N{2-[4-(2,3-dihydro-2-oxo- 1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-2-methoxybenzamide hydrate | O.NC1=CC(=C(C(=O)NCCN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)C=C1)OC | InChI=1S/C22H27N5O3.H2O/c1-30-20-14-15(23)6-7-17(20)21(28)24-10-13-26-11-8-16(9-12-26)27-19-5-3-2-4-18(19)25-22(27)29;/h2-7,14,16H,8-13,23H2,1H3,(H,24,28)(H,25,29);1H2
